US04649160
The 2-(4-fluorophenyl)ethoxyacetic acid obtained according to the preceding paragraph was reduced with lithium aluminum hydride in a manner analogous to that described in Example 1(b) to give 6.6 g (91%) of 2-[2-(4-fluorophenyl)-ethoxy]ethanol in the form of an oil which was homogeneous according to chromatography.

reactant | 2-(4-fluorophenyl)ethoxyacetic acid | FC1=CC=C(C=C1)CCOCC(=O)O | C10H11FO3
reactant | lithium aluminum hydride | [H-].[Al+3].[Li+].[H-].[H-].[H-]
product | 2-[2-(4-fluorophenyl)-ethoxy]ethanol | 6.6 g, 91% | FC1=CC=C(C=C1)CCOCCO | C10H13FO2
